US05663346
5-carboxy-3-[(7-azaindol-3-yl)methylen]-2-oxindole, piperidinium salt;
To a solution of 5-carboxy-3-[(7-azaindol-3-yl)methylen]-2-oxindole (0.305 g, 1 mmol) in ethanol (10 ml) was added piperidine (0.085 g, 1 mmol) and the mixture was concentrated under vacuum to a small volume. To the ice-cooled mixture ether was added, the precipitate filtered off, washed with ice-cooled ether and dried under vacuum. Thus almost pure title compound was obtained in about 80% yield.

reactant | 5-carboxy-3-[(7-azaindol-3-yl)methylen]-2-oxindole | 1 mmol, 0.305 g | C(=O)(O)C=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C17H11N3O3
reactant | piperidine | 1 mmol, 0.085 g | N1CCCCC1 | C5H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-carboxy-3-[(7-azaindol-3-yl)methylen]-2-oxindole, piperidinium salt | about 80% yield | [NH2+]1CCCCC1.C(=O)(O)C=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | InChI=1S/C17H11N3O3.C5H11N/c21-16-13(7-10-8-19-15-11(10)2-1-5-18-15)12-6-9(17(22)23)3-4-14(12)20-16;1-2-4-6-5-3-1/h1-8H,(H,18,19)(H,20,21)(H,22,23);6H,1-5H2/p+1
